US08557872B2
Step 1: Synthesis of 2-isopropoxy-4-trifluoromethyl-benzoic acid isopropyl ester
A mixture of 2-hydroxy-4-trifluoromethyl-benzoic acid (500 mg, 2.42 mmol) in DMF (5 mL) was added potassium carbonate (837 mg, 6.06 mmol) and 2-bromopropane (906 mg, 5.33 mmol). The resulting mixture was stirred for 48 hours at 110° C. The reaction mixture was diluted with EtOAc, which was washed with 1N HCl, water, and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The crude residue was purified by chromatography (Hex/EtOAc=5/1) to give the title compound (200 mg, 28%).

reactant | 2-hydroxy-4-trifluoromethyl-benzoic acid | 2.42 mmol, 500 mg | OC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C8H5F3O3
reactant | potassium carbonate | 6.06 mmol, 837 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromopropane | 5.33 mmol, 906 mg | BrC(C)C | C3H7Br
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-isopropoxy-4-trifluoromethyl-benzoic acid isopropyl ester | 200 mg, 28% | C(C)(C)OC(C1=C(C=C(C=C1)C(F)(F)F)OC(C)C)=O | C14H17F3O3
